**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 3
* SIMULATION TYPE: ac_point_dc_sweep
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_2.gazi.04ce3058-9860-48ad-82e6-516259819c3e/common/model_files/dut.cir

** Start testbenches

********************* dut testbench 20_0 *********************
v_gs_ac_20_0 g_20_0 g_ac_20_0 DC 0 AC 1
e_gs_20_0 g_ac_20_0 0 v_sweep 0 1
v_ds_20_0 d_20_0 0 0.0
v_s_20_0 s_20_0 0 0
v_bs_20_0 b_20_0 0 0.0
x_20_0 d_20_0 g_20_0 s_20_0 b_20_0 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 20_1 *********************
v_gs_ac_20_1 g_20_1 g_ac_20_1 DC 0 AC 1
e_gs_20_1 g_ac_20_1 0 v_sweep 0 1
v_ds_20_1 d_20_1 0 0.0
v_s_20_1 s_20_1 0 0
v_bs_20_1 b_20_1 0 1.0
x_20_1 d_20_1 g_20_1 s_20_1 b_20_1 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 20_2 *********************
v_gs_ac_20_2 g_20_2 g_ac_20_2 DC 0 AC 1
e_gs_20_2 g_ac_20_2 0 v_sweep 0 1
v_ds_20_2 d_20_2 0 0.0
v_s_20_2 s_20_2 0 0
v_bs_20_2 b_20_2 0 -1.0
x_20_2 d_20_2 g_20_2 s_20_2 b_20_2 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 1.0
alterparam dut a1 = 0.0
alterparam dut a2 = 1.0
alterparam dut acde = 1.0
alterparam dut ags = 0.0
alterparam dut cf = 0.0
alterparam dut cgdl = 1e-10
alterparam dut cgdo = 1e-10
alterparam dut ckappas = 0.6
alterparam dut clc = 1e-07
alterparam dut cle = 0.6
alterparam dut dlc = 0.0
alterparam dut drout = 0.56
alterparam dut dsub = 0.56
alterparam dut dvt0 = 2.2
alterparam dut dvt0w = 0.0
alterparam dut dvt1 = 0.53
alterparam dut dvt1w = 5300000.0
alterparam dut dvt2 = 1*-0.032
alterparam dut dvt2w = 1*-0.032
alterparam dut dwg = 0.0
alterparam dut eta0 = 0.08
alterparam dut etab = 1*-0.07
alterparam dut k1 = 0.53
alterparam dut k2 = 1*-0.0186
alterparam dut k3 = 80.0
alterparam dut k3b = 0.0
alterparam dut keta = 1*-0.0047
alterparam dut lint = 0.0
alterparam dut ll = 0.0
alterparam dut moin = 15.0
alterparam dut ndep = 1e+17
alterparam dut nfactor = 1.0
alterparam dut ngate = 1e+20
alterparam dut noff = 1.0
alterparam dut pclm = 1.3
alterparam dut pdiblc1 = 0.39
alterparam dut pdiblc2 = 0.086
alterparam dut pdiblcb = 0.0
alterparam dut pvag = 0.0
alterparam dut rdsw = 200.0
alterparam dut toxp = 5e-09
alterparam dut u0 = 670.0
alterparam dut ua = 1e-09
alterparam dut ub = 1e-19
alterparam dut uc = 1*-4.65e-11
alterparam dut voff = 1*-0.08
alterparam dut voffcv = 0.0
alterparam dut vsat = 80000.0
alterparam dut vth0 = 0.5
alterparam dut w0 = 2.5e-06
alterparam dut wint = 0.0
alterparam dut ww = 0.0
alterparam dut wwl = 0.0
alterparam dut lwl = 0.0
alterparam dut voffl = 0.0
alterparam dut xpart = 0.0
alterparam dut bin_pvsat = 0.0
alterparam dut bin_prdsw = 0.0
alterparam dut bin_ppclm = 0.0
alterparam dut bin_wketa = 0.0
alterparam dut bin_lketa = 0.0
alterparam dut bin_pketa = 0.0
alterparam dut bin_wk3 = 0.0
alterparam dut bin_wk3b = 0.0
reset
** Model parameters end

** Declare the vectors to save.
save i(v_ds_20_1) i(v_ds_20_0) i(v_ds_20_2)

** Write the header of the results file.
echo "vgs,cgd_20_0,cgd_20_2,cgd_20_1" > /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_2.gazi.04ce3058-9860-48ad-82e6-516259819c3e/models/modeli_1.110cbd8c-1264-4292-9ee7-ab7282681f22/single_simulation_22_07_2024-21_53_27/simulation_files/ac_point_dc_sweep_3.csv

** Start the simulation loop.
compose values_list start=-2.0 stop=2.0 step=0.05
foreach val $&values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgd_20_0 = abs(imag(i(v_ds_20_0)))/2*pi*10000.0
    let cgd_20_1 = abs(imag(i(v_ds_20_1)))/2*pi*10000.0
    let cgd_20_2 = abs(imag(i(v_ds_20_2)))/2*pi*10000.0

    echo "$val,$&cgd_20_0,$&cgd_20_2,$&cgd_20_1" >> /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/projekti_2.gazi.04ce3058-9860-48ad-82e6-516259819c3e/models/modeli_1.110cbd8c-1264-4292-9ee7-ab7282681f22/single_simulation_22_07_2024-21_53_27/simulation_files/ac_point_dc_sweep_3.csv
end

.endc
********** End of control section **********

.end